US07312233B2
Preparation of (5-amino-1H-indazol-3-yl)methanol
5-nitro-1H-indazole-3-carboxylic acid (500 mg, 0.002 mol) was dissolved in 50 mL THF, added lithium tetrahydroaluminate (366 mg, 0.00964 mol) in 3 portions and stirred at room temperature overnight. 65 mg (15%). Water (366 μL), 15% NaOH solution (366 μL), and water (1.1 mL) were added cautiously and the mixtured was filtered. The filtrate was concentrated under vacuum to give the product (65 mg, 15%) as an oil. m/z=160.0.

reactant | 5-nitro-1H-indazole-3-carboxylic acid | 0.002 mol, 500 mg | [N+](=O)([O-])C=1C=C2C(=NNC2=CC1)C(=O)O | C8H5N3O4
reactant | lithium tetrahydroaluminate | 0.00964 mol, 366 mg | [AlH4-].[Li+]
reactant | Water | 366 μL | O | H2O
reactant | NaOH | 366 μL | [OH-].[Na+]
reactant | water | 1.1 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (5-amino-1H-indazol-3-yl)methanol | 65 mg, 15% | NC=1C=C2C(=NNC2=CC1)CO | C8H9N3O
